US06265575B1
Part A. 2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl 3-Bromo-4-methoxyphenyl Ketone
The title compound was prepared in 76% yield from 2-(4-methoxyphenyl)]benzo[b]thiophene (Example 3, Part A) and 3-bromo-4-methoxybenzoic acid by essentially following the procedures detailed in Example 2, Part C.

reactant | benzo[b]thiophene | S1C2=C(C=C1)C=CC=C2 | C8H6S
reactant | 3-bromo-4-methoxybenzoic acid | BrC=1C=C(C(=O)O)C=CC1OC | C8H7BrO3
product | 2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl 3-Bromo-4-methoxyphenyl Ketone | 76% yield | BrC=1C=C(C=CC1OC)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)OC)C=CC=C2 | C23H17BrO3S
